US06927228B2
(a) 3-Bromo-5-iodo-N-methylbenzamide
37.5 g (115 mmol) of 3-bromo-5-iodobenzoic acid in 300 ml of dimethylformamide are introduced into a round-bottomed flask under a stream of nitrogen. 17.6 ml (127 mmol) of triethylamine, 17 g (126 mmol) of 1-hydroxybenzotriazole and 7.75 g (115 mmol) of methylamine hydrochloride are added. The reaction medium is cooled to 0° C., followed by portionwise addition of 24.2 g (126 mmol) of 1-[3-(dimethyl-amino)propyl]-3-ethylcarbodiimide hydrochloride. The medium is allowed to warm to room temperature and is stirred for 18 hours. It is then poured into water and the precipitate obtained is filtered off, washed with heptane and then dried. 37.3 g (96%) of the expected product are obtained in the form of a beige-colored powder with a melting point of 205° C.

reactant | 3-bromo-5-iodobenzoic acid | 115 mmol, 37.5 g | BrC=1C=C(C(=O)O)C=C(C1)I | C7H4BrIO2
reactant | triethylamine | 127 mmol, 17.6 ml | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 126 mmol, 17 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | methylamine hydrochloride | 115 mmol, 7.75 g | Cl.CN
reactant | 1-[3-(dimethyl-amino)propyl]-3-ethylcarbodiimide hydrochloride | 126 mmol, 24.2 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-Bromo-5-iodo-N-methylbenzamide | 37.3 g, 96% | BrC=1C=C(C(=O)NC)C=C(C1)I | C8H7BrINO
